US04526608
Following the procedure of Example 14, benzoylmethyl bromide is reacted with N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine to give N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]benzoylmethoxyamine (IVA; R3 is H, n is one, and R4 is phenyl).

reactant | benzoylmethyl bromide | C(C1=CC=CC=C1)(=O)CBr | C8H7BrO
reactant | N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])O | C14H10ClF3N2O4
product | N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]benzoylmethoxyamine | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])OCC(C1=CC=CC=C1)=O | C22H16ClF3N2O5
